US07037925B2
Methyl 3-amino-2-ethylbenzoate
A mixture of methyl 3-nitro-2-vinylbenzoate (1.1 g, 5.31 mmol), and 5% Pd/C (100 mg) in EtOAc/EtOH 1:1 (50 ml) was hydrogenated at 3 atm over night. The mixture was filtered through Celite, and the filtrate was concentrated to give the title compound 0.93 g (97%) as a colourless oil.

reactant | methyl 3-nitro-2-vinylbenzoate | 5.31 mmol, 1.1 g | [N+](=O)([O-])C=1C(=C(C(=O)OC)C=CC1)C=C | C10H9NO4
solvent | EtOAc EtOH | 50 ml | CCOC(=O)C.CCO
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Methyl 3-amino-2-ethylbenzoate | 0.93 g, 97% | NC=1C(=C(C(=O)OC)C=CC1)CC | C10H13NO2
